US07884110B2
Intermediate 25: 4-Iodo-7-methyl-7H-pyrrolo[2,3-d]pyrimidine
206 mg (0.84 mmol) of 4-iodo-7H-pyrrolo[2,3-d]pyrimidine was dissolved in 1 mL DMF. 37 mg (0.92 mmol) of 60% sodium hydride was added followed by 58 μL (0.92 mmol) of iodomethane. The reaction was quenched by adding 10 mL of water, the solid filtered off, washed with 10 mL of water, then 10 mL of hexanes and dried. Yield: 142 mg of a tan powder, 90% pure.

reactant | 4-iodo-7H-pyrrolo[2,3-d]pyrimidine | 0.84 mmol, 206 mg | IC=1C2=C(N=CN1)NC=C2 | C6H4IN3
reactant | sodium hydride | 0.92 mmol, 37 mg | [H-].[Na+]
reactant | iodomethane | 0.92 mmol, 58 μL | IC | CH3I
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | 4-Iodo-7-methyl-7H-pyrrolo[2,3-d]pyrimidine | IC=1C2=C(N=CN1)N(C=C2)C | C7H6IN3
